US07354932B2
A solution of paraformaldehyde (245 g) was heated to 70° C. in a solution of H2SO4 (360 mL) and H2O (90 mL) using a hot water bath until the mixture became homogenous. Solid N-allylphthalimide (133 g, 0.71 mol) was then added over 10 minutes, keeping the exotherm generated under control. The solution was then stirred at this temperature for an additional 0.5 hour and poured into ice water (1.5 L). The mixture was extracted with ethyl acetate (3×1 L), dried (MgSO4), filtered and concentrated under reduced pressure. The crude solid was then purified through a silica gel plug (1 kg SiO2) from CH2Cl2 as the eluent. This afforded the desired 1,3-dioxane-4-ylmethylphthalimide as a white solid (95 g, 54%).

reactant | paraformaldehyde | 245 g | C=O | CH2O
reactant | H2SO4 | 360 mL | OS(=O)(=O)O | H2O4S
reactant | N-allylphthalimide | 0.71 mol, 133 g | C(C=C)N1C(C=2C(C1=O)=CC=CC2)=O | C11H9NO2
reactant | H2O | 90 mL | O | H2O
product | 1,3-dioxane-4-ylmethylphthalimide | 95 g, 54% | O1COC(CC1)CC1=C2C(C(=O)NC2=O)=CC=C1 | C13H13NO4
